US07709503B2
Intermediate 94: Ethyl 3-oxoheptanoate
The title compound was prepared in a manner analogous to Intermediate 123 from valeryl chloride and 2,2-dimethyl-1,3-dioxane-4,6-dione (both commercially available).

reactant | valeryl chloride | C(CCCC)(=O)Cl | C5H9ClO
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | CC1(OC(CC(O1)=O)=O)C | C6H8O4
product | Ethyl 3-oxoheptanoate | O=C(CC(=O)OCC)CCCC | C9H16O3
